US07915250B2
1,1-Dimethylethyl 3-hydroxy-3-(1-nitroethyl)azetidine-1-carboxylate was dissolved in methanol (5 mL) and treated with 4 N HCl in dioxane. The solution was briefly heated to reflux and then was concentrated in vacuo to afford 178 mg, 0.98 mmol (96%) of 3-(1-nitroethyl)azetidin-3-ol hydrochloride as a white solid. 1H NMR (400 MHz, DMSO): 9.30 (br s, 1H), 8.96 (br s, 1H), 5.12 (q, 1H), 4.44-4.38 (m, 1H), 4.22-4.17 (m, 1H), 3.94-3.87 (m, 1H), 3.85-3.77 (m, 1H), 1.44 (d, 3H).

reactant | 1,1-Dimethylethyl 3-hydroxy-3-(1-nitroethyl)azetidine-1-carboxylate | OC1(CN(C1)C(=O)OC(C)(C)C)C(C)[N+](=O)[O-] | C10H18N2O5
reactant | HCl | 4 N | Cl | ClH
solvent | methanol | 5 mL | CO | CH4O
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 3-(1-nitroethyl)azetidin-3-ol hydrochloride | 0.98 mmol, 178 mg, 96% | Cl.[N+](=O)([O-])C(C)C1(CNC1)O | InChI=1S/C5H10N2O3.ClH/c1-4(7(9)10)5(8)2-6-3-5;/h4,6,8H,2-3H2,1H3;1H
